US05482967
A mixture of 5-Chloro-2-hydroxy-2-methylbenzophenone [prepared by reaction of 4-chloroanisole with ortho-tolyl chloride in 1,1,2,2,-tetrachloroethane in the presence of aluminum chloride (150° C., 7 hours): melting point 65°-66° C.] (71.9 g), diethyl malonate (70 ml) and 1,8diazabicyclo[5.4.0]undec-7-ene (4 ml) was stirred at 170° C. for 6 hours. The reaction mixture was purified by silica gel column chromatography (hexane) to yield 6-chloro-4-(2-methylphenyl)-2-oxo-2H-1-benzopyran-3-carboxylic acid ethyl ester as colorless crystals (73.2 g).

reactant | 5-Chloro-2-hydroxy-2-methylbenzophenone | ClC=1C=CC(C(C(=O)C2=CC=CC=C2)C1)(C)O | C14H13ClO2
reactant | 4-chloroanisole | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | ortho-tolyl chloride | C=1(C(=CC=CC1)Cl)C | C7H7Cl
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | diethyl malonate | 70 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1,8diazabicyclo[5.4.0]undec-7-ene | 4 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | 1,1,2,2,-tetrachloroethane | ClC(C(Cl)Cl)Cl | C2H2Cl4
product | 6-chloro-4-(2-methylphenyl)-2-oxo-2H-1-benzopyran-3-carboxylic acid ethyl ester | 73.2 g | C(C)OC(=O)C=1C(OC2=C(C1C1=C(C=CC=C1)C)C=C(C=C2)Cl)=O | C19H15ClO4
